US07960348B2
Trp(Boc), D-Arg(Pbf) and Leu were introduced in this order into 178 mg of Rink Amide MBHA Resin (0.56 mmol/g) on an ABI 433A peptide synthesizer to produce H-Leu-D-Arg(Pbf)-Trp(Boc)-Rink Amide MBHA resin. Separately, 116.3 mg (0.4 mmol) of Fmoc-NHNH2.HCl was suspended in 1 mL of DMF, and under ice cooling a suspension of 61.6 mg (0.38 mmol) of CDI in 10 ml of THF was added thereto. Subsequently, 139.4 μl (0.8 mmol) of DIEA was added to the mixture, followed by stirring at room temperature for an hour. The resulting reaction solution was added to the H-Leu-D-Arg(Pbf)-Trp(Boc)-Rink Amide MBHA resin described above, followed by stirring at room temperature for 15 hours. After completion of the reaction, the resin was washed and, Phe, Thr(But) and Asn(Trt) were introduced in this order into the resulting Fmoc-AzaGly-Leu-D-Arg(Pbf)-Trp(Boc)-Rink Amide MBHA resin on ABI 433A. The resin was divided into halves, one of which was taken out and the remaining half was applied again on ABI 433A, whereby D-Trp(Boc) and D-Tyr(But) were introduced in this order to give the H-D-Tyr(But)-D-Trp(Boc)-Asn(Trt)-Thr(But)-Phe-AzaGly-Leu-D-Arg(Pbf)-Trp(Boc)-Rink Amide MBHA resin. Subsequently, the product was treated for 20 minutes in 3 ml of DMF with 9.4 μl (0.1 mmol) of Ac2O and 17.4 μl (0.1 mmol) of DIEA for N-terminal acetylation. The resin was washed and dried to give 202.2 mg of the Ac-D-Tyr(But)-D-Trp(Boc)-Asn(Trt)-Thr(But)-Phe-AzaGly-Leu-D-Arg(Pbf)-Trp(Boc)-Rink Amide MBHA resin. To the resin obtained, 1.5 mL of TFA/PhSMe/m-cresol/H2O/TIS/EDT (80/5/5/5/2.5/2.5) was added and the mixture was stirred for 90 minutes. Diethyl ether was added to the reaction solution, the resulting precipitate was centrifuged, and the supernatant was removed. This procedure was repeated twice for washing. The residue was extracted with an aqueous acetic acid solution and the extract was filtered to remove the resin. Then, linear density gradient elution (60 minutes) was performed at a flow rate of 15 ml/min with eluants A/B: 70/30-60/40 using: eluant A: 0.1% TFA in water and eluant B: 0.1% TFA-containing acetonitrile on preparative HPLC using YMC Pack R&D-ODS-5-B S-5, 120A column (30×250 mm). The fractions containing the product were collected and lyophilized to give 16.2 mg of white powders.

reactant | Trp(Boc) | N[C@@H](CC1=CN(C2=CC=CC=C12)C(=O)OC(C)(C)C)C(=O)O | C16H20N2O4
reactant | D-Arg(Pbf) | N[C@H](CCCNC(NS(=O)(=O)C1=C(C)C(C)=C2OC(C)(C)CC2=C1C)=N)C(=O)O | C19H30N4O5S
reactant | Leu | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
product | H-Leu-D-Arg(Pbf)-Trp(Boc) | N[C@@H](CC(C)C)C(=O)N[C@H](CCCNC(NS(=O)(=O)C1=C(C)C(C)=C2OC(C)(C)CC2=C1C)=N)C(=O)N[C@@H](CC1=CN(C2=CC=CC=C12)C(=O)OC(C)(C)C)C(=O)O | C41H59N7O9S
